US09416137B2
A mixture of (−)-Normetazocine (5.0 g, 23.0 mmol), di-tert-butyl dicarbonate to (7.53 g, 34.5 mmol), and sodium hydrogen carbonate (5.80 g, 69.0 mmol), in dichloromethane (170 mL), tetrahydrofuran (170 mL), methanol (85 mL) and water (500 mL) was stirred at ambient temperature overnight. The organic phase was separated and the aqueous phase washed twice with dichloromethane (500 mL). The combined organic phases were dried (MgSO4). Filtration and removal of the solvent under reduced pressure gave oil that was dissolved in industrial methylated spirits (250 mL) and stirred with imidazole (3.0 g, 44.1 mmol) for 1 hour. The solvent was removed under reduced pressure and the residue partitioned between dichloromethane (250 mL) and 0.5N HCl(aq) (250 mL). The organic phase was washed with further acid (250 mL), brine (100 mL), and dried (MgSO4). Filtration and removal of the solvent under reduced pressure gave (2R,6R,11R)-tert-butyl 8-hydroxy-6,11-dimethyl-1,2,5,6-tetrahydro-2,6-methanobenzo[d]azocine-3(4H)-carboxylate (3.9 g, 53% yield); LC/MS (M+H)+=318.5.

reactant | (−)-Normetazocine | 23.0 mmol, 5.0 g | CCOC1=CC2=C(C=C1)NC(C=C2C)(C)C | C14H19NO
reactant | di-tert-butyl dicarbonate | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium hydrogen carbonate | 69.0 mmol, 5.80 g | C(O)([O-])=O.[Na+]
reactant | imidazole | 44.1 mmol, 3.0 g | N1C=NC=C1 | C3H4N2
solvent | dichloromethane | 170 mL | ClCCl | CH2Cl2
solvent | water | 500 mL | O | H2O
solvent | methanol | 85 mL | CO | CH4O
solvent | tetrahydrofuran | 170 mL | O1CCCC1 | C4H8O
product | (2R,6R,11R)-tert-butyl 8-hydroxy-6,11-dimethyl-1,2,5,6-tetrahydro-2,6-methanobenzo[d]azocine-3(4H)-carboxylate | 3.9 g, 53% yield | OC1=CC2=C(C[C@H]3N(CC[C@@]2([C@H]3C)C)C(=O)OC(C)(C)C)C=C1 | C19H27NO3
